US04634713
A mixture of 9500 ml of anhydrous ethyl alcohol and 2323 g of 1-(4-aminocyclohexyl)-2-imidazolidinone is heated with mixing to effect solution. The solution is cooled to room temperaure and 3200 ml of a saturated solution of anhydrous hydrogen chloride gas in ethyl acetate is added to pH 1. The temperature of the mixture rises to 60° and the product crystallizes. The mixture is cooled to 10°. The crude product is filtered off, washed with 3500 ml of anhydrous ethyl alcohol and dried at 50°-60° in vacuo for 2 days. The crude hydrochloride salt is recrystallized twice from anhydrous methanol-ethyl ether (ca 1:1) to give cis 1-(4-aminocyclohexyl)-2-imidazolidinone monohydrochloride, m.p. 327°-8°.

reactant | ethyl alcohol | 9500 ml | C(C)O | C2H6O
reactant | 1-(4-aminocyclohexyl)-2-imidazolidinone | 2323 g | NC1CCC(CC1)N1C(NCC1)=O | C9H17N3O
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | cis 1-(4-aminocyclohexyl)-2-imidazolidinone monohydrochloride | Cl.N[C@H]1CC[C@H](CC1)N1C(NCC1)=O | InChI=1S/C9H17N3O.ClH/c10-7-1-3-8(4-2-7)12-6-5-11-9(12)13;/h7-8H,1-6,10H2,(H,11,13);1H/t7-,8+;
